US09210927B2
Step 2. 1-(4-(1H-1,2,4-triazol-1-yl)phenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluorobutan-1-one (DI75)
To a stirred solution of 1-(4-(1-(trimethylsilyloxy)vinyl)phenyl)-1H-1,2,4-triazole (6 g, 23 mmol) and 1-(1-bromo-2,2,2-trifluoro-ethyl)-3,5-dichlorobenzene (7.1 g, 34.7 mmol) in 1,2-dichlorobenzene (30 mL) was degassed with argon. To this CuCl (0.23 g, 2.31 mmol) and 2,2-bipyridyl (0.73 g, 4.63 mmol) was added to the above reaction mixture and the resultant reaction mixture was heated to 180° C. for 18 h. After completion of the reaction (by TLC), the reaction mixture was absorbed onto silica gel and purified by column chromatography (SiO2; 10% EtOAc in petroleum ether) to afford title compound as a solid (3 g, 31%): 1H NMR (400 MHz, CDCl3) δ 8.67 (s, 1H), 8.15 (s, 1H), 8.10 (d, J=8.3 Hz, 2H), 7.82 (d, J=8.3 Hz, 2H), 7.33 (m, 1H), 7.30 (m, 2H), 4.20 (m, 1H), 3.63 (m, 2H); ESIMS m/z 412. 14 ([M−H]−).

reactant | 1-(4-(1-(trimethylsilyloxy)vinyl)phenyl)-1H-1,2,4-triazole | 23 mmol, 6 g | C[Si](OC(=C)C1=CC=C(C=C1)N1N=CN=C1)(C)C | C13H17N3OSi
reactant | 1-(1-bromo-2,2,2-trifluoro-ethyl)-3,5-dichlorobenzene | 34.7 mmol, 7.1 g | BrC(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C8H4BrCl2F3
reactant | 2,2-bipyridyl | 4.63 mmol, 0.73 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | 1,2-dichlorobenzene | 30 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | CuCl | 2.31 mmol, 0.23 g | Cl[Cu]
product | 1-(4-(1H-1,2,4-triazol-1-yl)phenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluorobutan-1-one | 3 g, 31% | N1(N=CN=C1)C1=CC=C(C=C1)C(CC(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)=O | C18H12Cl2F3N3O
